US05753594
3-(2-Thienyl)-3-fluoro-2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-butyric acid
0.9 g (3 mmol) of methyl 3-(2-thienyl)-3-fluoro-2-(4,6-dimethoxypyrimidin-2-yl)oxybutyrate (from Ex. 3) are dissolved in 20 ml of methanol and 20 ml of tetrahydrofuran, and 3.7 g of 10% strength NaOH solution are added. The mixture is stirred for 6 hours at 60° C. and for 12 hours at room temperature, the solvents are distilled off in vacuo, and the residue is taken up in 100 ml of water. The aqueous phase is now extracted using ethyl acetate and subsequently brought to pH 1-2 using dilute hydrochloric acid and extracted using ethyl acetate. After the mixture has been dried over magnesium sulfate and the solvent distilled off, a small amount of acetone is added to the residue and the precipitate which has formed is filtered off with suction. After drying, 0.8 g of a white powder remains.

reactant | methyl 3-(2-thienyl)-3-fluoro-2-(4,6-dimethoxypyrimidin-2-yl)oxybutyrate | 3 mmol, 0.9 g | S1C(=CC=C1)C(C(C(=O)OC)OC1=NC(=CC(=N1)OC)OC)(C)F | C15H17FN2O5S
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(2-Thienyl)-3-fluoro-2-[(4,6-dimethoxypyrimidin-2-yl)oxy]-butyric acid | S1C(=CC=C1)C(C(C(=O)O)OC1=NC(=CC(=N1)OC)OC)(C)F | C14H15FN2O5S
